US07838521B2
E2. 2-(3,4-dimethoxyphenyl-1,4-pentadien-3-ol
According to the General Procedure C, 1-Bromo-1-(3,4-dimethoxyphenyl)ethene (1.00 g, 4.11 mmol), t-BuLi (6.05 ml, 10.28 mmol) and acrolein (691 mg, 12.33 mmol) are converted to give after workup and chromatography (SiO2, PE/EE=2:1, Rf=0.25) the title compound (382 mg, 1.74 mmol, 42%) as a yellow oil; C13H16O3 (220.26).

reactant | 1-Bromo-1-(3,4-dimethoxyphenyl)ethene | 4.11 mmol, 1.00 g | BrC(=C)C1=CC(=C(C=C1)OC)OC | C10H11BrO2
reactant | t-BuLi | 10.28 mmol, 6.05 ml | [Li]C(C)(C)C
reactant | acrolein | 12.33 mmol, 691 mg | C(=O)C=C | C3H4O
product | 3,4-dimethoxyphenyl-1,4-pentadien-3-ol | 1.74 mmol, 382 mg, 42% | COC=1C=C(C=CC1OC)C=CC(C=C)O | C13H16O3
